US07655670B2
4-[(2-Bromo-phenyl)-methyl-carbamoyl]-piperidine-1-carboxylic acid tert-butyl ester
4-(2-Bromo-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester (0.50 g, 1.30 mmol) was dissolved in dry N,N-dimethylformamide (5.0 mL). To the reaction mixture was then added at 0° C. sodium hydride (60% in mineral oil, 62.6 mg, 1.56 mmol) under nitrogen atmosphere and the reaction mixture was stirred at 0° C. for one hour. To the reaction mixture was then added at 0° C. methyl iodide (0.241 g, 1.70 mmol). The reaction mixture was stirred at 0° C. for one hour, then at room temperature under nitrogen atmosphere for 3 hours. The reaction mixture was then added into an excess of water-ice and a gum formed. The gum was filtered by suction, washed with water and dried to yield a crude solid. The crude solid was purified via flash chromatography (25% ethyl acetate/hexanes) to yield the title compound as a solid.

reactant | 4-(2-Bromo-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.30 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=C(C=CC=C1)Br)=O | C17H23BrN2O3
reactant | sodium hydride | 1.56 mmol, 62.6 mg | [H-].[Na+]
reactant | methyl iodide | 1.70 mmol, 0.241 g | CI | CH3I
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | 4-[(2-Bromo-phenyl)-methyl-carbamoyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N(C)C1=C(C=CC=C1)Br)=O | C18H25BrN2O3
